US06861424B2
Alternatively, 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-(1,1-dimethylethoxycarbonyl)propyl]aminocarbonyl-4-(methoxycarbonyl)quinoline (200 mg, 0.359 mmol) was treated with LiOH (2 eq.) in a solution of THF:H2O (3:1, 8 mL). The reaction mixturre was stirred at ambient temperature for 5 hours. The pH value was adjusted to between pH 3 and pH 4 with 1 N HCl solution. Evaporation of the solvents, extraction with ethyl acetate, washing with H2O and brine, followed by evaporation and flash column chromatography with 100% ethyl acetate, 1-5% MeOH in ethyl acetate gave 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-(1,1-dimethylethoxycarbonyl)propyl]aminocarbonyl-4-carboxyquinoline (106 mg). To a solution of 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-(1,1-dimethylethoxycarbonyl)propyl]aminocarbonyl-4-carboxyquinoline (500 mg (two batches combined), 0.922 mmol) in THF (10 mL) was added 1-methyl 5-t-butyl ester glutamic acid (300 mg, 1.5 eq), EDCI (216 mg, 1.2 eq.), HOBt (140 mg, 1.1 eq.), and the resulting mixture was stirred overnight. The reaction mixture was evaporated in vacuo to afford a crude product, which was dissolved in ethyl acetate, washed with saturated NaHCO3, 1 M NaHSO4 and brine. The organic layer was evaporated. Flash column chromatography with 1%-3% MeOH in CH2Cl2 afforded 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-(1,1-dimethylethoxycarbonyl)propyl]aminocarbonyl-4-[(1-(methoxycarbonyl)-3-(1,1-dimethylethoxycarbonyl)propyl)aminocarbonyl]quinoline (387 mg); NMR (CDCl3) 1.28 (t, 3), 1.40 (s, 9), 1.47 (s, 9), 1.83 (m, 1), 2.16 (m, 2), 2.35-2.50 (m, 5), 3.5-3.76 (m, 8), 3.8 (s, 3), 4.18 (q, 2), 4.85 (m, 1), 5.35 (m, 1), 7.15 (d, 1), 7.65 (m, 1), 7.80 (m, 1), 8.20 (d, 1), 8.30 (d, 1), 8.35 (s, 1), 8.70 (d, 1) ppm.

reactant | 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-(1,1-dimethylethoxycarbonyl)propyl]aminocarbonyl-4-(methoxycarbonyl)quinoline | 0.359 mmol, 200 mg | C(C)OC(=O)N1CCN(CC1)C(=O)C(CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC=CC=C2C(=C1)C(=O)OC | C28H36N4O8
reactant | LiOH | 2 eq. | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | THF H2O | 8 mL | C1CCOC1.O
product | 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-(1,1-dimethylethoxycarbonyl)propyl]aminocarbonyl-4-carboxyquinoline | 106 mg | C(C)OC(=O)N1CCN(CC1)C(=O)C(CCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C27H34N4O8
